US08293917B2
A solution of 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-hex-5-enyl]-amide (800 mg, 1.7 mmol) in CH2Cl2 (25 mL) at −78° C. is treated with ozone gas by bubbling for 30 min until a blue color is sustained. After stirring for an additional hour at −78° C., dimethylsulfide (10 mL) is added. The reaction mixture is warmed to room temperature and concentrated in vacuo to afford 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [(S)-5-oxo-1-(3-trifluoromethyl-phenyl)-pentyl]-amide which is used without further purification.

reactant | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [(S)-1-(3-trifluoromethyl-phenyl)-hex-5-enyl]-amide | 1.7 mmol, 800 mg | FC(C=1C=C(C=CC1)[C@H](CCCC=C)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl)(F)F | C24H23ClF3N3O
reactant | ozone | O=[O+][O-] | O3
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [(S)-5-oxo-1-(3-trifluoromethyl-phenyl)-pentyl]-amide | O=CCCC[C@@H](C1=CC(=CC=C1)C(F)(F)F)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl | C23H21ClF3N3O2
